US07476675B2
4-(3-Bromo-5-methoxy-benzyl)-3,4-dihydro-1H-quinoline-2-one
3,4-Dihydro-2(1H)-quinolinone was purchased from Aldrich Chemical Co. (Cat. No. 41,593-6) and used without purification in this step. 0.45 grams of 3,4-dihydro-2(1H)-quinolinone (3.0 mmole) was dissolved in 15 ml dimethylformamide and cooled in an ice bath. 0.2 grams (4.5 mmole) of sodium hydride (60% wt. in oil ) was added to this solution, and after 5 minutes 0.84 grams 3-bromo-5-methoxy-benzylbromide (3 mmol) was added thereto all at once. The mixture was stirred at ice bath temperature for 1 hour and then quenched by addition of 1% hydrochloric acid. The reaction mix was extracted with ethyl acetate, which was evaporated under reduced pressure to give an oil, which was chromatographed with medium pressure eluting using 10% ethyl acetate in hexanes to yield 0.8 grams of solid 4-(3-bromo-5-methoxy-benzyl)-3,4-dihydro-1H-quinoline-2-one.

reactant | 3,4-Dihydro-2(1H)-quinolinone | N1C(CCC2=CC=CC=C12)=O | C9H9NO
reactant | 3,4-dihydro-2(1H)-quinolinone | 3.0 mmole, 0.45 grams | N1C(CCC2=CC=CC=C12)=O | C9H9NO
reactant | sodium hydride | 4.5 mmole, 0.2 grams | [H-].[Na+]
reactant | 3-bromo-5-methoxy-benzylbromide | 3 mmol, 0.84 grams | BrC=1C=C(CBr)C=C(C1)OC | C8H8Br2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-(3-Bromo-5-methoxy-benzyl)-3,4-dihydro-1H-quinoline-2-one | 0.8 grams | BrC=1C=C(CC2CC(NC3=CC=CC=C23)=O)C=C(C1)OC | C17H16BrNO2
